US07977358B2
To a solution of intermediate 11A, 2-cyclopropanecarbonyl-3-oxo-butyric acid ethyl ester (2.0 g, 10 mmol) in acetic acid (10 ml), cooled at 5° C., was added a solution of (3-Trifluoromethoxy-phenyl)-hydrazine (2.1 g, 11 mmol) in acetic acid (10 ml). The reaction was allowed to come to room temperature (1 h) after which time the reaction was concentrated, the residue dissolved in DCM, washed with saturated NaHCO3, (Na2SO4) and concentrated. Purification by flash column chromatography (EtOAc:n-heptane 1:9) afforded 5-cyclopropyl-3-methyl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester (2.8 g, 77%). Saponification of the ester with NaOH in analogy to intermediate 6 affords the title compound.

reactant | 2-cyclopropanecarbonyl-3-oxo-butyric acid ethyl ester | 10 mmol, 2.0 g | C(C)OC(C(C(C)=O)C(=O)C1CC1)=O | C10H14O4
reactant | (3-Trifluoromethoxy-phenyl)-hydrazine | 11 mmol, 2.1 g | FC(OC=1C=C(C=CC1)NN)(F)F | C7H7F3N2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 5-cyclopropyl-3-methyl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 2.8 g, 77% | C(C)OC(=O)C=1C(=NN(C1C1CC1)C1=CC(=CC=C1)OC(F)(F)F)C | C17H17F3N2O3
